US08729079B2
a: Ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-6-methyl-2-morpholinopyrimidine-5-carboxylate
Ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-2-chloro-6-methylpyrimidine-5-carboxylate (0.6 g, 1.23 mmol) was dissolved in NMP (5 mL), morpholine (0.14 mL) was added and the mixture was stirred at room temperature for 45 minutes. The reaction mixture was poured into water and extracted with EtOAc. The organic layer was washed with water, dried over Na2SO4 and evaporated to give the desired product (0.53 g). 1H NMR (400 MHz, DMSO-d6): δ 10.48 (s, 1H), 7.56 (d, J=8.4 Hz, 2H), 7.26 (d, J=8.4 Hz, 2H), 4.30 (q, J=6.8 Hz, 2H), 3.75 (s, 2H), 3.64 (m, 4H), 3.46-3.21 (m, 8H), 2.69 (s, 3H), 2.41 (m, 4H), 1.38 (s, 9H), 1.33 (t, J=6.8 Hz, 3H); MS m/z 541.1 (M+1).

reactant | Ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-2-chloro-6-methylpyrimidine-5-carboxylate | 1.23 mmol, 0.6 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)NC1=NC(=NC(=C1C(=O)OCC)C)Cl | C24H32ClN5O4
reactant | morpholine | 0.14 mL | N1CCOCC1 | C4H9NO
reactant | water | O | H2O
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | Ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-6-methyl-2-morpholinopyrimidine-5-carboxylate | 0.53 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)NC1=NC(=NC(=C1C(=O)OCC)C)N1CCOCC1 | C28H40N6O5
